US04282170
9-(2-cyanoethyl)-9-(N-methylcarbamoyl)fluorene
A 36.8 g. portion of 9-(N-methylcarbamoyl)fluorene was reacted with 10.6 g. of acrylonitrile in the presence of 10 g. of Triton B in tetrahydrofuran as described in Example 4. The reaction mixture was then concentrated under vacuum to a semi-solid, which was added to ice-water/ethyl acetate. The organic layer was separated, washed with water, and dried over sodium sulfate. The solution was evaporated to dryness to obtain 45.8 g. of crude product, which was crystallized from ethyl acetate/hexane to obtain 30 g. of the desired product, m.p. 185°-187°. Infrared analysis of the product showed a carbonyl band at 1685 cm-1 and a nitrile band at 2270 cm-1.

reactant | 9-(N-methylcarbamoyl)fluorene | CNC(=O)C1C2=CC=CC=C2C=2C=CC=CC12 | C15H13NO
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9-(2-cyanoethyl)-9-(N-methylcarbamoyl)fluorene | C(#N)CCC1(C2=CC=CC=C2C=2C=CC=CC12)C(NC)=O | C18H16N2O
